* Z:\mnt\design.r\spice\examples\1930.asc
V1 IN 0 5
R1 OUT N002 113K
R2 N002 0 13.3K
L1 IN N001 10µ Rser=0.182
D1 N001 OUT MBRS130L
C2 OUT 0 4.7µ Rser=.05
XU1 N001 0 N002 IN IN LT1930
Rload OUT 0 50
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1930.sub
.backanno
.end
